US04201733
A solution of 5,5-dimethyl-2-isopropylamino-2-thioxo-1,3,2-dioxaphosphorinane (3.00 g, 13.4 mmol) and triethylamine (1.9 ml, 13.5 mmol) in tetrahydrofuran (20 ml) is added dropwise over 20 minutes to a stirred solution of sulfur dichloride (1.00 ml, 15.7 mmol) in tetrahydrofuran (20 ml) at room temperature. Following the addition the mixture is stirred at room temperature for 1 hour. Cuprous chloride (0.25 g) is added to the mixture followed by dropwise addition of a solution of Methyl N-[[(methylamino)carbonyl]oxy]ethanimidothioate (2.17 g, 13.4 mmol) and triethylamine (1.90 ml, 13.5 mmol) in tetrahydrofuran (20 ml.). The mixture is stirred for two hours at room temperature then diluted with water and extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate, and concentrated under reduced pressure. The residual oil is chromatographed over silica gel eluting with a mixture of ethyl acetate - Skellysolve B in the ratio of 2 to 3. The chromatographed product is recrystallized from ethyl acetate, to give Methyl N-[[[[[(5,5-dimethyl-2-thioxo-1,3,2-dioxaphosphorinan-2-yl)isopropylamino]thio]methylamino]carbonyl]oxy]ethanimidothioate as a white solid of melting point 114°-115° C. The nmr and ir spectra are consistent with the expected structure.

reactant | 5,5-dimethyl-2-isopropylamino-2-thioxo-1,3,2-dioxaphosphorinane | 13.4 mmol, 3.00 g | CC1(COP(OC1)(=S)NC(C)C)C | C8H18NO2PS
reactant | triethylamine | 13.5 mmol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | sulfur dichloride | 15.7 mmol, 1.00 ml | S(Cl)Cl | Cl2S
reactant | Methyl N-[[(methylamino)carbonyl]oxy]ethanimidothioate | 13.4 mmol, 2.17 g | CNC(=O)ON=C(C)SC | C5H10N2O2S
reactant | triethylamine | 13.5 mmol, 1.90 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Methyl N-[[[[[(5,5-dimethyl-2-thioxo-1,3,2-dioxaphosphorinan-2-yl)isopropylamino]thio]methylamino]carbonyl]oxy]ethanimidothioate | CC1(COP(OC1)(=S)N(SCNC(=O)ON=C(C)SC)C(C)C)C | C13H26N3O4PS3
